US04160094
A solution of 15% w/w n-butyl lithium in hexane (51 ml.) ca. 0.12 m) was added portionwise to a solution of 3-methyl-5,6,7,8-tetrahydroquinoline (14.7 g., 0.1 m) in ether (100 ml.) and the mixture allowed to stand at room temperature for 1 hour to form 8-lithio-3-methyl-5,6,7,8-tetrahydroquinoline. The solution was then added dropwise to a cooled, stirred solution of methylchloroformate (9.45 g., 0.1 m) in ether (100 ml.). The mixture was further treated as described in Example 25 of copending U.S. Ser. No. 460,265 to give methyl-3-methyl-5,6,7,8-tetrahydroquinoline-8-carboxylate.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 3-methyl-5,6,7,8-tetrahydroquinoline | 14.7 g | CC=1C=NC=2CCCCC2C1 | C10H13N
solvent | hexane | 51 ml | CCCCCC | C6H14
solvent | ether | 100 ml | CCOCC | C4H10O
product | 8-lithio-3-methyl-5,6,7,8-tetrahydroquinoline | [Li]C1CCCC=2C=C(C=NC12)C | InChI=1S/C10H12N.Li/c1-8-6-9-4-2-3-5-10(9)11-7-8;/h5-7H,2-4H2,1H3;
